US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine
The title compound was prepared in analogy to Example 62-1 in Scheme 23 by using 2-chloro-6-methylquinazolin-4(3H)-one, 2,3,4,5-tetrahydro-1,4-benzothiazepine and oxetane-3,3-diyldimethanamine. MS obsd. (ESI+) [(M+H)+] 422. 1H NMR (400 MHz, CD3OD) δ ppm 7.66 (dd, J=1.6, 7.2 Hz, 1 H), 7.62 (s, 1 H), 7.44 (dd, J=1.2, 7.6 Hz, 1 H), 7.34-7.29 (m, 2 H), 7.18 (m, 1 H), 7.08 (m, 1 H), 4.99 (s, 2 H), 4.63 (d, J=6.4 Hz, 2 H), 4.45 (d, J=6.4 Hz, 2 H), 4.34 (s, 2 H), 4.02 (s, 2 H), 2.98 (s, 2 H), 2.90 (m, 2 H), 2.36 (s, 3 H).

reactant | 2-chloro-6-methylquinazolin-4(3H)-one | ClC1=NC2=CC=C(C=C2C(N1)=O)C | C9H7ClN2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCSC2=C(C1)C=CC=C2 | C23H27N5OS
